US08202865B2
Step 2: methyl 5-[amino(hydroxyimino)methyl]-2-fluorobenzoate
To a suspension of methyl 5-cyano-2-fluorobenzoate, obtained in step 2 (804.60 mg; 4.49 mmol; 1 eq.) in EtOH (8.05 mL) was added hydroxylamine (50% in water) (1.35 mL; 22.46 mmol; 5 eq.). The reaction mixture was stirred at RT for 1 h40. Water (25 mL) was added followed by Et2O (25 mL). Aqueous layer was extracted with Et2O (2×25 mL). The combined organic layers were then washed with NaCl sat. solution and dried over magnesium sulfate, filtered and concentrated to afford the title compound as a yellow solid (931 mg; 98%). 1H NMR (DMSO-d6, 300 MHz) δ 9.78 (br s, 1H), 8.21 (dd, J=7.1, 2.4 Hz, 1H), 7.96-7.91 (m, 1H), 7.38 (dd, J=10.8, 8.8 Hz, 1H), 5.97 (br s, 2H), 3.87 (s, 3H). HPLC (Method A), Rt 0.92 min (purity: 90.6%). LC/MS (Method B): 211.1 (M−H)−; 213.0 (M+H)+.

reactant | methyl 5-cyano-2-fluorobenzoate | C(#N)C=1C=CC(=C(C(=O)OC)C1)F | C9H6FNO2
reactant | hydroxylamine | 22.46 mmol, 1.35 mL, 5 eq. | NO | H3NO
reactant | Water | 25 mL | O | H2O
reactant | Et2O | 25 mL | CCOCC | C4H10O
solvent | EtOH | 8.05 mL | CCO | C2H6O
product | methyl 5-[amino(hydroxyimino)methyl]-2-fluorobenzoate | 931 mg, 98% | NC(C=1C=CC(=C(C(=O)OC)C1)F)=NO | C9H9FN2O3
